US06340759B1
Ethyl 3-(4-Tributylstannylphenyl)butyrate (5.46 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (1.33 g) were heated under reflux overnight in the presence of tetrakistriphenylphosphinepalladium(0) (0.19 g) in xylene in nitrogen atmosphere. After cooling, the reaction solution was diluted with ethyl acetate and filtered. The filtrate was extracted with 2N hydrochloric acid. The aqueous layer was washed with ethyl acetate, adjusted to pH 10 with a 8N aqueous solution of sodium hydroxide, and then extracted in ethyl acetate. The organic layer was washed with a 10% aqueous solution of sodium carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give 1-(4-ethylpiperazin-1-yl)-3-[4-(1-ethoxycarbonylpropan-2-yl)phenyl]isoquinoline (1.34 g) as a pale yellow viscous oil.

reactant | Ethyl 3-(4-Tributylstannylphenyl)butyrate | 5.46 g | C(CCC)[Sn](C1=CC=C(C=C1)C(CC(=O)OCC)C)(CCCC)CCCC
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 1.33 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.19 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(1-ethoxycarbonylpropan-2-yl)phenyl]isoquinoline | 1.34 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C(CC(=O)OCC)C | C27H33N3O2
